US04075210
6-Chloro-2-methylpyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-9(4H)-one
205 g. of 4,6-dichloropyridine-3-carboxylic acid, methyl ester and 194 g. of 5-amino-3-methylpyrazole are refluxed together in 500 ml. of butyl alcohol with stirring for 24 hours. After this time, 6-chloro-2-methylpyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-9(4H)-one is filtered off, washed with water and recrystallized from dimethylformamide, yield: 195 g. (83%); m.p. >300°.

reactant | 4,6-dichloropyridine-3-carboxylic acid, methyl ester | ClC1=C(C=NC(=C1)Cl)C(=O)OC | C7H5Cl2NO2
reactant | 5-amino-3-methylpyrazole | NC1=CC(=NN1)C | C4H7N3
solvent | butyl alcohol | C(CCC)O | C4H10O
product | 6-Chloro-2-methylpyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-9(4H)-one | ClC1=CC=2NC=3N(C(C2C=N1)=O)N=C(C3)C | C10H7ClN4O
